US05232948
To a solution of 500 g (31.25 mmoles) of 6-methylcoumarin in 200 ml CCl4 is added 5.56 g (31.25 mmoles) of NBS. This solution is subjected to a sunlamp at reflux for 41/2 hours. After cooling, the reaction mixture is filtered and the filtrate concentrated in vacuo to yield a solid which upon trituration with ethyl acetate affords 6-bromomethylcoumarin which is used directly in the next step.

reactant | 6-methylcoumarin | 31.25 mmoles, 500 g | CC=1C=C2C=CC(OC2=CC1)=O | C10H8O2
reactant | NBS | 31.25 mmoles, 5.56 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | CCl4 | 200 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 6-bromomethylcoumarin | BrCC=1C=C2C=CC(OC2=CC1)=O | C10H7BrO2
